US07365225B2
Step d) Formation of [4-({{[2-(4-{[(4-pentylbenzyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}[(2E)-3-phenylprop-2-enoyl]amino}methyl)phenoxy]acetic acid
1N aqueous NaOH (0.5 mL) was added to a solution of methyl[4-({{[2-(4-{[(4-pentylbenzyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}[(2E)-3-phenylprop-2-enoyl]amino}methyl)phenoxy]acetate (163 mg, 0.23 mmol) in MeOH (5 mL). The reaction mixture was stirred at RT for 2 hours, then poured into 1N aqueous HCl (25 mL). The resulting precipitate was filtered, washed with water (3×) and dried under reduced pressure to give 120 mg (75%) of the title compound as a white solid. M+(ESI): 688.1; M−(ESI): 686.5. HPLC, Rt: 5.3 min (purity: 100%). 1H NMR (CDCl3) δ: 7.97-7.79 (m, 5H), 7.50-7.01 (m, 13H), 6.84 (m, 2H), 6.57 (m, 1H), 4.88 (brs, 2H), 4.75 (brs, 2H), 4.60 (m, 4H), 2.60 (t, J=7.7 Hz, 2H), 1.61 (m, 2H), 1.33 (m, 4H), 0.90 (t, J=6.4 Hz, 3H).

reactant | NaOH | 1N, 0.5 mL | [OH-].[Na+]
reactant | methyl[4-({{[2-(4-{[(4-pentylbenzyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}[(2E)-3-phenylprop-2-enoyl]amino}methyl)phenoxy]acetate | 0.23 mmol, 163 mg | COC(COC1=CC=C(C=C1)CN(C(\C=C\C1=CC=CC=C1)=O)CC=1N=C(SC1)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)CCCCC)=O | C42H43N3O5S
reactant | HCl | 1N, 25 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | [4-({{[2-(4-{[(4-pentylbenzyl)amino]carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}[(2E)-3-phenylprop-2-enoyl]amino}methyl)phenoxy]acetic acid | 120 mg, 75% | C(CCCC)C1=CC=C(CNC(=O)C2=CC=C(C=C2)C=2SC=C(N2)CN(C(\C=C\C2=CC=CC=C2)=O)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C41H41N3O5S
